US05252741
Preparation of N-(2,4-Difluorophenyl)-N-(3-pyridylmethyl)amine
A mixture of 3-cyanopyridine (10.4 g), 2,4-difluoroaniline (129.1 g) and a 5% rhodium on carbon catalyst (1.0 g) was treated with hydrogen at 60 psig and 25-30 deg C. until two equivalents of hydrogen had reacted. The hydrogen pressure was incrementally increased to 400 psig during the course of the reaction. After cooling, venting and purging with nitrogen, the catalyst was removed by filtration. The filtrate analyzed and found to contain 10.4 g of N-(2,4-diflourophenyl)-N-(3-pyridylmethyl)amine which could be isolated by distillation (158-164 deg. C. @ 3mm Hg) and recrystallization (cyclohexane) to give a white solid with a melting point of 88.5-90 deg C.

reactant | 3-cyanopyridine | 10.4 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | 2,4-difluoroaniline | 129.1 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | two equivalents | [H][H] | H2
catalyst | rhodium on carbon | 1.0 g | [Rh] | Rh
product | N-(2,4-Difluorophenyl)-N-(3-pyridylmethyl)amine | FC1=C(C=CC(=C1)F)NCC=1C=NC=CC1 | C12H10F2N2
